US04486589
2-(Chloromethyl)benzenesulfonamide
A solution of ammonia (5.2 ml) in tetrahydrofuran (250 ml) at -70° was contacted rapidly with a solution of 2-(chloromethyl)benzenesulfonyl chloride (21.8 g) in tetrahydrofuran (125 ml). The stirred mixture was allowed to warm to 0° and volatiles were removed under vacuum. The residue was contacted with ethyl acetate and a small volume of water. The organic layer was dried (MgSO4) and evaporated to give 19.8 g of white solid, m.p. 156°-157.5°. Recrystallization from toluene/ethyl acetate gave a sample with m.p. 157°-160°. 1H nmr δ(CD3)2COTMS 8.16-7.35 (m), 6.75 brds), 5.20 (s), 3.08 (s).

reactant | ammonia | 5.2 ml | N | H3N
reactant | 2-(chloromethyl)benzenesulfonyl chloride | 21.8 g | ClCC1=C(C=CC=C1)S(=O)(=O)Cl | C7H6Cl2O2S
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2-(Chloromethyl)benzenesulfonamide | 19.8 g | ClCC1=C(C=CC=C1)S(=O)(=O)N | C7H8ClNO2S
